US07737166B2
Methyl (4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)acetate (I-295)
Dimethyl 2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)malonate (I-294) (2.887 g, 7.11 mmol) was dissolved in dimethyl sulfoxide (50 ml) and water (5 ml), then at room temperature, magnesium chloride (2.03 g, 21.34 mmol) was added. The solution was stirred at 90° C. for 23 hours, then cooled to room temperature. The solvent was evaporated away under reduced pressure, the residue was fractionated with ethyl acetate and saturated brine. The aqueous layer was separated, extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=3:1, v/v) to obtain the entitled compound (2.216 g, 90%) as a pale yellow solid.

reactant | Dimethyl 2-(4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)malonate | 7.11 mmol, 2.887 g | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)C(C(=O)OC)C(=O)OC)C2=CC=CC=C2)C | C23H20N2O5
reactant | magnesium chloride | 21.34 mmol, 2.03 g | [Cl-].[Mg+2].[Cl-]
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | 5 ml | O | H2O
product | Methyl (4-cyano-2-cyclopropyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl)acetate | 2.216 g, 90% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)CC(=O)OC)C2=CC=CC=C2)C | C21H18N2O3
